US07572919B2
1-(2-Hydroxy-4-methoxyphenyl)-2-(4-methylphenyl)ethanone (2b).
Using the previous procedure and starling from 1-(2,4-dihydroxyphenyl)-2-(4-methylphenyl)ethanone (7.51 g, 31.0 mmol) and methanol (1.32 mL, 32.55 mmol), 7.38 g (93%) of the title compound was obtained as a white solid: mp (EtOAc/hexane) 71-72° C.; IR (KBr) 1639, 1623, 1590, 1516, 1508, 1439, 1388, 1355, 1268, 1231, 1205, 1131, 10.33, 1010, 957, 800, 780, 571, 504, 491 cm−1; 1H NMR (400 MHz, CDCl3) δ 12.72 (br s, 1H), 7.73 (d, J=8.6 Hz, IH), 7.24-7.14 (m, 4H), 6.43-6.40 (m, 2H), 4.1.5 (s, 2H), 3.81 (s, 3H), 2.31 (s, 3H); 13C NMR (100 MHz, CDC3) δ 202.63, 166.56, 166.28, 137.14, 132.47. 131.71, 129.87, 129.61. 113.60, 108.20, 101.43, 55.98, 44.89, 21.48; HRMS calculated for C16H16NaO1 (M+Na)+ 279.0997. found 279.0989.

reactant | 1-(2,4-dihydroxyphenyl)-2-(4-methylphenyl)ethanone | 31.0 mmol, 7.51 g | OC1=C(C=CC(=C1)O)C(CC1=CC=C(C=C1)C)=O | C15H14O3
reactant | methanol | 32.55 mmol, 1.32 mL | CO | CH4O
product | 1-(2-Hydroxy-4-methoxyphenyl)-2-(4-methylphenyl)ethanone | 7.38 g, 93% | OC1=C(C=CC(=C1)OC)C(CC1=CC=C(C=C1)C)=O | C16H16O3
